US07388031B2
(i) 5-Methylcarbonyl-1,3-benzoxazol-2(3H)-one
7.8 ml of triethylamine and 2.75 g (0.0093 mol) of triphosgene are added to a mixture of 4.2 g (0.0277 mol) of 2-amino-4-methylcarbonylphenol in 100 ml of THF, at 0° C. The mixture is stirred at room temperature for 1 hour, poured into 100 ml of a 0.5N HCl solution and extracted with ethyl acetate, the organic phase is dried and the solvent is evaporated off. The compound of the title is obtained.

reactant | triethylamine | 7.8 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.0093 mol, 2.75 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-4-methylcarbonylphenol | 0.0277 mol, 4.2 g | NC1=C(C=CC(=C1)C(=O)C)O | C8H9NO2
reactant | HCl | 0.5N | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-Methylcarbonyl-1,3-benzoxazol-2(3H)-one | CC(=O)C=1C=CC2=C(NC(O2)=O)C1 | C9H7NO3
